US07504508B2
N-cyclopropyl-N-[1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide
To the solution of N-cyclopropyl-N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-acetamide (82 mg, 0.34 mmol) in DCM (5 mL) was added 4-methoxybenzoyl chloride (68 mg, 0.40 mmol), followed by DIPEA (104 mg, 0.80 mmol). The reaction mixture was stirred at r.t. overnight. The mixture was concentrated under reduced pressure and dissolved in ethyl acetate. The reaction mixture was washed with sat. sodium bicarbonate and brine. The organic phase was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography (hexanes-ethyl acetate) to afford only the cis isomer as a slightly yellow solid product (81 mg, 68%). The mixture of two enantiomers was purified by chiral HPLC using the OD column and the two enatiomers were obtained:

reactant | N-cyclopropyl-N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-acetamide | 0.34 mmol, 82 mg | C1(CC1)N(C(C)=O)C1CC(NC2=CC=CC=C12)C | C15H20N2O
reactant | 4-methoxybenzoyl chloride | 0.40 mmol, 68 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | DIPEA | 0.80 mmol, 104 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-N-[1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 81 mg, 68% | C1(CC1)N(C(C)=O)C1CC(N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C23H26N2O3
